US07253180B2
To a solution of carbobenzoxyaminoethyl phosphonic acid (2.35 g, 9.1 mmol) in pyridine (40 mL) was added phenol (8.53 g, 90.6 mmol) and 1,3-dicyclohexylcarbodiimide (7.47 g, 36.2 mmol). After the reaction mixture was warmed to 70° C. and stirred for 5 h, the mixture was diluted with CH3CN and filtered. The filtrate was concentrated under reduced pressure and diluted with EtOAc. The organic phase was washed with sat. NH4Cl, sat. NaHCO3, and brine, then dried over Na2SO4, filtered, and evaporated under reduced pressure. The crude product was chromatographed on silica gel twice (eluting 40-60% EtOAc/hexane) to give diphenyl 2-aminoethyl phosphonic acid (2.13 g, 57%) as a colorless solid.

reactant | carbobenzoxyaminoethyl phosphonic acid | 9.1 mmol, 2.35 g | C(=O)(OCC1=CC=CC=C1)NCCP(O)(O)=O | C10H14NO5P
reactant | phenol | 90.6 mmol, 8.53 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,3-dicyclohexylcarbodiimide | 36.2 mmol, 7.47 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | CH3CN | CC#N | C2H3N
product | diphenyl 2-aminoethyl phosphonic acid | 2.13 g, 57% | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)CCN | C14H16NO3P
